US07829560B2
N-[4-({2-[(2,2-Dimethoxyethyl)(methyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-piperidin-1-ylbenzamide (Compound B403).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and (2,2-dimethoxy-ethyl)-methylamine according to conditions described in general procedure C. Mp: 135-136° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.59-1.61 (m, 6 H), 2.82 (s, 3 H), 3.01-3.08 (m, 2 H), 3.27-3.30 (m, 10 H), 3.60 (s, 1 H), 6.25-6.40 (bd, 1H), 6.93-6.98 (m, 1H), 7.16 (d, J=8.5 Hz, 1 H), 7.40 (d, J=9.0 Hz, 1 H), 7.45 (s, 1 H), 7.54-7.59 (m, 3 H), 7.80 (s, 1 H), 7.96-7.99 (m, 1 H), 8.27 (d, J=4.4 Hz, 1 H), 10.41 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | (2,2-dimethoxy-ethyl)-methylamine | COC(CNC)OC | C5H13NO2
product | N-[4-({2-[(2,2-Dimethoxyethyl)(methyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-piperidin-1-ylbenzamide | COC(CN(C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O)C)OC | C31H34FN5O4
